US06187801B1
0.3 g of 2,7-dibromo-3,4-dihydro-2H-naphthalen-1-one is dissolved in 10 ml of ethanol and, after addition of 140 mg of thiobenzamide, heated to reflux for 5 h. The reaction mixture is concentrated in vacuo, the residue is suspended in 10 ml of 1 N sodium hydroxide solution and stirred at room temperature for 1 h. The suspension is filtered with suction, thoroughly washed with water and dried in vacuo. 8-Bromo-2-phenyl4,5-dihydro-naphtho[1,2-d]thiazole is obtained with a melting point of 85° C.

reactant | 2,7-dibromo-3,4-dihydro-2H-naphthalen-1-one | 0.3 g | BrC1C(C2=CC(=CC=C2CC1)Br)=O | C10H8Br2O
reactant | thiobenzamide | 140 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 8-Bromo-2-phenyl4,5-dihydro-naphtho[1,2-d]thiazole | BrC1=CC=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C2=C1 | C17H12BrNS
